US06897208B2
A stirred solution of 3-cyanophenyl boronic acid (812 mg) and tetrakis(triphenylphosphine) palladium (150 mg) in tetrahydrofuran (4 mL) under at atmosphere of nitrogen was treated with 4-bromo-2-nitroaniline in tetrahydrofuran (10 mL). The reaction mixture was heated at 85° C. for 48 hours, then cooled to ambient temperature and then partitioned between ethyl acetate and water. The organic layer was washed with brine, then dried over magnesium sulfate and then evaporated. The residue was subjected to flash column chromatography on silica eluting with a mixture of ethyl acetate and hexane (1:2, v/v) to give 4′-amino-3′-nitro-biphenyl-3-carbonitrile (224 mg) as a yellow solid. LC-MS (METHOD B): RT=3.21 minutes, 240.3 (M+H)+. (b) 2-nitro-4-pyridine-3-yl-phenylamine

reactant | 3-cyanophenyl boronic acid | 812 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 4-bromo-2-nitroaniline | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium | 150 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-amino-3′-nitro-biphenyl-3-carbonitrile | 224 mg | NC1=C(C=C(C=C1)C1=CC(=CC=C1)C#N)[N+](=O)[O-] | C13H9N3O2
